US04861769
To a solution of ethyl 2-(2-bromoethoxyimino)-3,3-ethylenedioxybutyrate (syn isomer)(50 g) in N,N-dimethylformamide (100 ml) was portionwise added potassium tert-butoxide (21 g) under -10° C. and the resulted mixture was allowed to be stirred under ice-cooling for 20 minutes. The mixture was poured into ice-water (400 ml) and extracted with methylene chloride (200 ml). The extract was washed with water (200 ml×3) and saturated aqueous solution of sodium chloride (400 ml) successively, dried over magnesium sulfate, and added methylene iodide (16.2 ml). To the solution was dropwise added a 35% (W/W) solution of diethylzinc in cyclohexane (55 ml) under reflux during 40 minutes under nitrogen. atmosphere. After refluxed for 18 hours, the mixture was poured into ice-water (400 ml) and adjusted to 40 with 1N hydrochloric acid. The organic layer was separated, washed with an aqueous solution of sodium bicarbonate and a saturated aqueous solution of sodium chloride successively, dried over magnesium sulfate, and concentrated in vacuo. The residue was subjected to column chromatography on silica gel (50 g) using diisopropyl ether as an eluent to give ethyl 2-cyclopropyloxyimino-3,3-ethylenedioxybutyrate (syn isomer)(15 g), the physical data of which were identical to those of the compound prepared in Preparation 10.

reactant | ethyl 2-(2-bromoethoxyimino)-3,3-ethylenedioxybutyrate | 50 g | BrCCON=C(C(=O)OCC)C1(C)OCCO1 | C10H16BrNO5
reactant | potassium tert-butoxide | 21 g | CC(C)([O-])C.[K+]
solvent | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | ethyl 2-cyclopropyloxyimino-3,3-ethylenedioxybutyrate | 15 g | C1(CC1)ON=C(C(=O)OCC)C1(C)OCCO1 | C11H17NO5
